US04670193
4-Phenylbutylphosphonic acid-mono-benzyl ester
To a solution of 4-phenylbutylphosphonous acid benzyl ester (1.0 gm, 0.0035 moles) in 10 ml acetone and 5 ml water was added a solution of potassium permanganate (0.16 gm, 0.0021 moles) in 5 ml water at 20° C. After the addition (2 minutes), the reaction mixture was stirred at 20° C. for 5 minutes and acidified to pH 1 using concentrated HCl acid. Saturated sodium bisulphite solution was added to the reaction mixture to get a cloudy white solution, which on extraction with ethyl acetate followed by solvent evaporation produced the title compound as a pale yellow oil in 87% (0.92 gm) yield.

reactant | 4-phenylbutylphosphonous acid benzyl ester | 0.0035 moles, 1.0 gm | C(C1=CC=CC=C1)OP(O)CCCCC1=CC=CC=C1 | C17H21O2P
reactant | potassium permanganate | 0.0021 moles, 0.16 gm | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | HCl | Cl | ClH
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 4-Phenylbutylphosphonic acid-mono-benzyl ester | C(C1=CC=CC=C1)OP(O)(=O)CCCCC1=CC=CC=C1 | C17H21O3P
